US05321047
4-[N,N-Bis-(4-Chlorobenzyl)amino]butyronitrile
Bis-(4-chlorobenzyl)amine hydrochloride [prepared by reducing N-(4-chlorobenzyl)-4-chlorobenzamide with lithium aluminium hydride in tetrahydrofuran] was basified using sodium carbonate in methylene dichlorlde solvent to give after rotary evaporation 3.16 g of the free base as an oil. This was then mixed with 4-bromobutyronitrile (1.19 ml), diisopropylethylamine (2.1 ml) and 25 ml of dry dimethylformamide and the mixture stirred at 80° C. under nitrogen for 24 hours. On cooling water (100 cm3) was added and then the mixture was extracted with 1×50 ml and 2×25 ml of methylene dichloride. The combined extracts were washed with water, dried (MgSO4), filtered and evaporated to give an oil. This was further purified by column chromatography (silica column eluted with toluene) to give 2.83 g of the title product as an oil. 2.8 g of the title compound was dissolved in 10 ml hot ethanol, acidified with 0.76 g (1 equiv) of oxalic acid, diluted with ether and cooled to give, after filtration, the 1:1-ethanedioate salt (1.78 g) as colourless crystals, mp 124°-6° (dec).

reactant | Bis-(4-chlorobenzyl)amine hydrochloride | Cl.ClC1=CC=C(CNCC2=CC=C(C=C2)Cl)C=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-[N,N-Bis-(4-Chlorobenzyl)amino]butyronitrile | 2.83 g | ClC1=CC=C(CN(CC2=CC=C(C=C2)Cl)CCCC#N)C=C1 | C18H18Cl2N2
